US05616765
A larger batch of 4-trimethylsiloxybenzocyclobutene was synthesized from 6.56 gms of 4-hydroxybenzocyclobutene and 5.54 gms of triethylamine, taken up in 15 ml anhydrous benzene followed by the addition of a nearly three molar excess of chlorotrimethylsilane (20 ml in 15 ml dry benzene) to the reaction mixture maintained at 5° C. An instant white precipitation of triethylamine hydrochloride was observed. The solution was allowed to warm up on its own to 15° C. in about 5 hours and the reaction mixture was kept stirred overnight, It was warmed to 40° C. and maintained for about three hours. The reaction mixture was cooled and the isolation of the product was done exactly as described before. The weight of the light yellow oil (crude) was 7.93 g, 76% yield. Total amount of the colorless oil obtained from vacuum distillation was 7.07 grams. Anal. Calc.: C, 68.69%; H, 8.38%. Found: C, 69.15%; H, 8.44%.

reactant | 4-hydroxybenzocyclobutene | 6.56 gms | OC1=C2C(CC2)=CC=C1 | C8H8O
reactant | triethylamine | 5.54 gms | C(C)N(CC)CC | C6H15N
reactant | chlorotrimethylsilane | 20 ml | Cl[Si](C)(C)C | C3H9ClSi
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
product | 4-trimethylsiloxybenzocyclobutene | 76% yield | C[Si](OC1=C2C(CC2)=CC=C1)(C)C | C11H16OSi
